### PR TITLE
feat(ErdosProblems): 535

### LINKED ISSUE #776: Erdős Problem 535
### What is the conjecture
    
https://www.erdosproblems.com/535

  Let $r\geq 3$, and let $f_r(N)$ denote the size of the largest subset of $\\{1,\ldots,N\\}$ such that no subset of size $r$ has the same pairwise greatest common divisor between all elements. Estimate $f_r(N)$.
  

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by conglu1997**
Closes https://github.com/google-deepmind/formal-conjectures/issues/776 with the help of claude code.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/535.lean [hunk 1]
```diff
@@ -0,0 +1,114 @@
...
+`|A| ≤ c_r^k`. The conjectured upper bound for `f_r(N)` would follow from this.
+-/
+@[category research open, AMS 5 11]
+theorem erdos_535.variants.sunflower_strong {r : ℕ} (hr : 3 ≤ r) :
+    ∃ c_r > (0 : ℝ),
+      ∀ k : ℕ, ∀ A : Finset ℕ,
+        AllOmega k A →
+        NoConstantPairwiseGcdCoprimeSubsets r A →
+        (A.card : ℝ) ≤ c_r ^ k := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/535.lean:123]: AlphaProof found a disproof
```lean
/--
Stronger sunflower-style statement: if all elements of `A` have exactly `k` distinct prime
factors and no `r`-subset has constant pairwise GCD with coprime quotients, then
`|A| ≤ c_r^k`. The conjectured upper bound for `f_r(N)` would follow from this.
-/
@[category research open, AMS 5 11]
theorem erdos_535.variants.sunflower_strong : ¬ ∀ {r : ℕ} (hr : 3 ≤ r),
    ∃ c_r > (0 : ℝ),
      ∀ k : ℕ, ∀ A : Finset ℕ,
        AllOmega k A →
        NoConstantPairwiseGcdCoprimeSubsets r A →
        (A.card : ℝ) ≤ c_r ^ k := by
  -- AlphaProof found a disproof
  push_neg
  delta NoConstantPairwiseGcdCoprimeSubsets AllOmega
  refine ⟨9, (by decide),fun R M=>⟨1,(? _)⟩⟩
  refine(exists_nat_gt R).elim fun and p=>((Nat.infinite_setOf_prime_modEq_one four_ne_zero).exists_subset_card_eq (and + 1)).elim fun a s=> ⟨a.image (2^.),?_⟩
  bound[2]
  · bound[ Finset.mem_image.1 a_2]
  · obtain ⟨A, B, rfl⟩:=a.mem_image.1 a_2
    show (star _)=1
    norm_num[(left B).1.ne_zero,<-List.toFinset_card_of_nodup,List.nodup_dedup]
    norm_num[(left B).1.ne_zero,Finset.card_eq_one,Finset.ext_iff]
    use(2), fun and=>⟨fun ⟨a, R⟩=> (and.prime_dvd_prime_iff_eq a (by decide)).mp ↑(a.dvd_of_dvd_pow R), (@·.symm▸⟨by decide,pow_dvd_pow (2) (@left A B).left.pos⟩)⟩
  · obtain ⟨A, B, rfl⟩:= Finset.subset_image_iff.1 ↑a_1
    norm_num[Set.Pairwise, A.card_image_of_injective,(2).pow_right_injective]at*
    use absurd (left_2 _ (A.orderEmbOfFin_mem a_2 0) ( A.orderEmbOfFin a_2 1)) ?_
    norm_num+decide[←left_2 _ (A.orderEmbOfFin_mem a_2 (2)) ( A.orderEmbOfFin a_2 3),Nat.gcd_eq_left ∘pow_dvd_pow 2]
  · norm_num[p.trans, *, a.card_image_of_injective,(2).pow_right_injective]
```

please check if there is something wrong with the formalisation.

File: FormalConjectures/ErdosProblems/535.lean [hunk 2]
```diff
@@ -0,0 +1,114 @@
...
+
+/-- The Erdős–Rado sunflower lemma gives the weaker bound `c_r^k * k!`. -/
+@[category research solved, AMS 5 11]
+theorem erdos_535.variants.sunflower_erdos_rado {r : ℕ} (hr : 3 ≤ r) :
+    ∃ c_r > (0 : ℝ),
+      ∀ k : ℕ, ∀ A : Finset ℕ,
+        AllOmega k A →
+        NoConstantPairwiseGcdCoprimeSubsets r A →
+        (A.card : ℝ) ≤ c_r ^ k * (Nat.factorial k) := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/535.lean:136]: AlphaProof found a disproof: 
```lean
/-- The Erdős–Rado sunflower lemma gives the weaker bound `c_r^k * k!`. -/
@[category research solved, AMS 5 11]
theorem erdos_535.variants.sunflower_erdos_rado : ¬ ∀ {r : ℕ} (hr : 3 ≤ r),
    ∃ c_r > (0 : ℝ),
      ∀ k : ℕ, ∀ A : Finset ℕ,
        AllOmega k A →
        NoConstantPairwiseGcdCoprimeSubsets r A →
        (A.card : ℝ) ≤ c_r ^ k * (Nat.factorial k) := by
  push_neg
  use(3)
  delta Erdos535.AllOmega Erdos535.NoConstantPairwiseGcdCoprimeSubsets
  use refl _,fun R M=>⟨1,?_⟩
  refine(exists_nat_gt R).elim fun a s=>((Nat.infinite_setOf_prime_modEq_one four_ne_zero).exists_subset_card_eq (a + 1)).elim fun A B=>⟨A.image (2^.),?_⟩
  use Finset.forall_mem_image.2 fun and α=>⟨and.two_pow_pos,?_⟩, fun and R M ⟨a, C, H, _⟩=>(Finset.subset_image_iff.1 R).elim fun and h=>? _,by simp_all[s.trans, A.card_image_of_injective,Function.Injective]
  · show (star _)=1
    norm_num[<-List.toFinset_card_of_nodup,List.nodup_dedup]
    norm_num[(B.1 α).1.ne_zero, Finset.card_eq_one, Finset.ext_iff]
    use(2),fun p=>⟨And.elim ((p.prime_dvd_prime_iff_eq · (by decide) |>.1.comp (Nat.Prime.dvd_of_dvd_pow (by valid)))),(·.symm▸⟨by decide,pow_dvd_pow (2) (B.1 α).1.pos⟩)⟩
  · norm_num[<-h.2, and.card_image_of_injective,Function.Injective,Set.Pairwise] at M H
    use absurd (H (and.orderEmbOfFin M 0) · (and.orderEmbOfFin M 1)) ?_
    norm_num+decide[←H _ (and.orderEmbOfFin_mem M 1) (and.orderEmbOfFin M 2),Nat.gcd_eq_left ∘pow_dvd_pow 2]
```

Seems like something is misformalised here.

**Review by mo271 — CHANGES_REQUESTED** [review]
Thanks!

The formalisation provided doesn't seem to be accurate because a statement with an informal proved can be disproved formally, see the comments.

**Comment by conglu1997** [comment]
I'm raising this on https://www.erdosproblems.com/535, it seems we are missing a square-free condition.

**Comment by smmercuri** [comment]
> I'm raising this on https://www.erdosproblems.com/535, it seems we are missing a square-free condition.

It seems the website did not yet get updated. If you have seen a reference with this additional squarefree condition, then go ahead and update the formalization accordingly. Please add the reference to the list in the module docstring, and a comment above the squarefree condition explaining why it is there

**Comment by conglu1997** [comment]
Following a literature search, I posted this comment on the erdos problems website: 

```
I looked through the literature after my earlier comment, and I think the right correction is stronger than just adding a squarefree hypothesis.

The counterexample $A_m=\{2,4,8,\dots,2^m\}$ shows that the current auxiliary formulation with $\omega(n)=k$ is false: for $k=1$, this family can be arbitrarily large while still avoiding an $r$-tuple with constant pairwise gcd.

What seems to be the correct fix is the one Erdős gives later. In [Er73], he says that Abbott pointed out the ordinary sunflower conjecture does not seem to suffice for deriving the conjectured upper bound for $f_3(x)$. He then replaces it by a slightly stronger conjecture in which the integers have exactly $n$ prime factors counted with multiplicity. In modern notation, this is $\Omega(n)=k$, not $\omega(n)=k$.

So I think the auxiliary statement here should be updated to:

estimate the size of the largest set $A$ of integers such that $\Omega(n)=k$ for all $n\in A$, and there do not exist $a_1,\dots,a_r\in A$ and an integer $d$ such that $(a_i,a_j)=d$ for all $i\ne j$ and $\left(\frac{a_i}{d},d\right)=1$ for all $i$.

The squarefree / $\omega(n)=k$ version is still a natural special case, and it is suggested by the argument in [Er64], but it is not the full corrected auxiliary statement that Erdős later endorsed after Abbott’s objection.
```

And have updated the problem file to this.

File: FormalConjectures/ErdosProblems/535.lean [hunk 3]
```diff
@@ -0,0 +1,128 @@
...
+Let $r \geq 3$, and let $f_r(N)$ denote the size of the largest subset of $\{1,\ldots,N\}$
+such that no subset of size $r$ has the same pairwise greatest common divisor between all
+elements. Erdős [Er64] proved that $f_3(N) > N^{c/\log\log N}$ for some constant $c > 0$, and
+conjectured this should also be an upper bound; here we state the conjectural upper bound
+for all $r \geq 3$.
+
+See also [536].
+-/
+@[category research open, AMS 5 11]
+theorem erdos_535 : ∀ r ≥ 3, ∃ c > (0 : ℝ),
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/535.lean:73]: might it make sense to state this for the special case $r=3$ (even though strictly speaking it is not mentioned on erdosproblems.com explicitly, it might make sense to add it as the first open case?

File: FormalConjectures/ErdosProblems/535.lean [hunk 4]
```diff
@@ -0,0 +1,128 @@
...
+theorem erdos_535.variants.abbott_hanson {r : ℕ} (hr : 3 ≤ r) :
+    ∀ ε > (0 : ℝ), ∀ᶠ (N : ℕ) in atTop,
+      (f r N : ℝ) ≤ (N : ℝ) ^ ((1 : ℝ) / 2 + ε) := by
+  sorry
+
+/--
+Erdős [Er73] records that Abbott pointed out the ordinary sunflower conjecture
+does not seem to suffice here. The stronger auxiliary conjecture uses `Ω(n)=k`,
+i.e. prime factors counted with multiplicity; this stronger statement would imply
+the conjectured upper bound for `f_r(N)`.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/535.lean]:
```suggestion
the conjectured upper bound for $f_r(N)$.
```

Please use latex markdown throughout

**Review by mo271 — APPROVED** [review]
Thanks, LGMT now

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!
